US07504397B2
(ii) 4-[4-(4-Bromo-imidazol-1-yl)-pyrimidin-2-yl]-morpholine (52)
To a cooled (0° C.) solution of morpholine (0.256 g, 2.94 mmol) in anhydrouse DMF (5 ml) was added NaH (0.117 g, 2.94 mmol, 60% disp' in mineral oil). The mixture was stirred at this temperature for 30 minutes before the addition of 4-(4-Bromo-imidazol-1-yl)-2-chloro-pyrimidine (0.64 g, 2.45 mmol). The reaction vessel was sealed and heated under the infuenceof microwave radiation for 7 minutes (120° C., High absorption setting). Upon cooling the mixture was diluted with water (7 ml) and the resultant yellow precipitate removed by filtration and purified by flash chromatography (SiO2) (4:1—Hexanes:EtOAc) to give the title compound as a white solid in analytically (0.76 g, 38.6%) pure form. m/z (LC-MSW, ESP):310.3 [M+H]+, R/T=3.26 mins.

reactant | morpholine | 2.94 mmol, 0.256 g | N1CCOCC1 | C4H9NO
reactant | NaH | [H-].[Na+]
reactant | 4-(4-Bromo-imidazol-1-yl)-2-chloro-pyrimidine | 2.45 mmol, 0.64 g | BrC=1N=CN(C1)C1=NC(=NC=C1)Cl | C7H4BrClN4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[4-(4-Bromo-imidazol-1-yl)-pyrimidin-2-yl]-morpholine | BrC=1N=CN(C1)C1=NC(=NC=C1)N1CCOCC1 | C11H12BrN5O
